US06235950B1
A vapor plug flow reactor ½″ diameter×3′ long Monel® pipe is fed with 1 g/min of the hexafluoro-2-propanol and 150 cc/min of elemental fluorine at ambient conditions to produce 1,1,1,2,3,3,3 heptafluoropropane in greater than 90% yield.

reactant | hexafluoro-2-propanol | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
reactant | fluorine | FF | F2
product | 1,1,1,2,3,3,3 heptafluoropropane | greater than 90% yield | FC(C(C(F)(F)F)F)(F)F | C3HF7
